US05856326
Step B: 4-tert-Butoxycarbonyl-5(S)-n-butyl-1-(2-methylphenyl)piperazin-2-one
The title compound was prepared essentially according to the procedure described in Example 39. Step D, except using N-(2-methylphenyl)-2(S)-(tert-butoxycarbonylamino)hexanamine (0.506 g, 1.65 mmol), chloroacetyl chloride (0.158 mL, 1.98 mmol) in ethyl acetate-saturated sodium bicarbonate at 0° C. The crude product thus obtained was dissolved in DMF (15 mL), cooled to 0° C. under nitrogen, and treated with cesium carbonate (1.61 g, 4.95 mmol). The reaction was stirred at 0° C. for 2 h, and at room temperature for 2 h. The reaction was quenched with saturated ammonium chloride, and extracted with ethyl acetate. The extracts were dried and evaporated to give the title compound.

reactant | N-(2-methylphenyl)-2(S)-(tert-butoxycarbonylamino)hexanamine | 1.65 mmol, 0.506 g | CC1=C(C=CC=C1)NC[C@H](CCCC)NC(=O)OC(C)(C)C | C18H30N2O2
reactant | chloroacetyl chloride | 1.98 mmol, 0.158 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-tert-Butoxycarbonyl-5(S)-n-butyl-1-(2-methylphenyl)piperazin-2-one | C(C)(C)(C)OC(=O)N1CC(N(C[C@@H]1CCCC)C1=C(C=CC=C1)C)=O | C20H30N2O3
